US07612114B2
6,8-Dimethoxy-2-(4-methoxyphenyl)-3,4-dihydro-2H-naphthalen-1-one
The title compound was synthesized by referring to J. Am. Chem. Soc., 1997, 119 (45), 11108. To a solution of 6,8-dimethoxy-3,4-dihydro-2H-naphthalen-1-one (11.9 g) in tetrahydrofuran (200 ml) were sequentially added 4-bromoanisole (16.2 g), sodium tert-butoxide (11.1 g), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.3 g) and tris(dibenzylidene)acetone dipalladium(0) (792 mg), and the solution was stirred for 1.5 hours at 75° C. under a nitrogen atmosphere. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo; the resulting crude crystal was suspended in diethyl ether and then filtered. The mother liquor was concentrated in vacuo, the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate system); the resulting crystal was suspended in diethyl ether, then filtered, and combined to provide the title compound (14.2 g).

reactant | 6,8-dimethoxy-3,4-dihydro-2H-naphthalen-1-one | 11.9 g | COC=1C=C2CCCC(C2=C(C1)OC)=O | C12H14O3
reactant | 4-bromoanisole | 16.2 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | sodium tert-butoxide | 11.1 g | CC(C)([O-])C.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.3 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 6,8-Dimethoxy-2-(4-methoxyphenyl)-3,4-dihydro-2H-naphthalen-1-one | 14.2 g | COC=1C=C2CCC(C(C2=C(C1)OC)=O)C1=CC=C(C=C1)OC | C19H20O4
